US05498695
B. PhCH2NHCOValAlaOH
By the same procedure used to prepare the title compound of Example 1C, PhCH2NHCOValAlaOCH3 (671 mg, 2.00 mmole) and LiOH.OH (168 mg, 4.00 mmole) in 10% aqueous CH3OH (20 mL) gave after quenching with sulfonic acid ion exchange resin (18.0 g, 40 meq) 658 mg (100%) of pure product as an off-white flaky solid. Recyrstallization of a portion from ethyl acetate/CH3OH gave an analytical sample as very fine white crystals: mp 205°-206° C.; 1H NMR (DMSO-d6) δ 0.79 (d, J=6.8 Hz, 3H), 0.86 (d, J=6.7 Hz, 3H), 1.25 (d, J=7.3 Hz, 3H), 1.85-2.0 (m, 1H), 4.05-4.3 (m, 4H), 6.09 (d, J=9.3 Hz, 1H), 6.54 (t, J=6.0 Hz, 1H), 7.15-7.35 (m, 5H), 824 (d, J=7.0 Hz, 1H); MS (LSIMS) m/e 344 (22, M+ +Na), 322 (83, M+ +1), 233 (70), 205 (18), 189 (100); [α]D20 +15.3° (c=1.0, DMF); Analysis calculated for C16H23N3O4 : C, 59.79; H, 7.21; N, 13.08; found: C, 59.87; H, 7.30; N, 12.80.

reactant | PhCH2NHCOValAlaOCH3 | 2.00 mmole, 671 mg | C1(=CC=CC=C1)CNC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)OC | C17H25N3O4
reactant | LiOH | [Li+].[OH-]
product | PhCH2NHCOValAlaOH | C1(=CC=CC=C1)CNC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)O | C16H23N3O4
